US04503065
2-Chloro-4,5-bis(4-methoxyphenyl)-1H-imidazole, Hydrochloride
A suspension of 4,5-bis(4-methoxyphenyl)-1H-imidazole (10.0 g, 0.036 mol) in 200 ml of carbon tetrachloride was treated with chlorine until no starting material was evidenced by tlc (chloroform-methanol-acetic acid, 17:1:2). The resulting solid was collected by filtration, washed with carbon tetrachloride, and dried in vacuo to yield 12.5 g (100%) of the title compound, m.p. 129°-132° (dec.).

reactant | 4,5-bis(4-methoxyphenyl)-1H-imidazole | 0.036 mol, 10.0 g | COC1=CC=C(C=C1)C=1N=CNC1C1=CC=C(C=C1)OC | C17H16N2O2
reactant | chlorine | ClCl | Cl2
reactant | chloroform methanol acetic acid | C(Cl)(Cl)Cl.CO.C(C)(=O)O
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Chloro-4,5-bis(4-methoxyphenyl)-1H-imidazole, Hydrochloride | 12.5 g, 100% | Cl.ClC=1NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | InChI=1S/C17H15ClN2O2.ClH/c1-21-13-7-3-11(4-8-13)15-16(20-17(18)19-15)12-5-9-14(22-2)10-6-12;/h3-10H,1-2H3,(H,19,20);1H
